US07342032B2
Part A: To a solution of 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid (0.50 gram, 1.30 mmol) in dichloromethane (10 mL) is successively added 1-aminohexahydro(1H)azepine (0.15 gram, 1.30 mmol), 7-aza-1-hydroxybenzotriazole (0.18 gram, 1.30 mmol), 7-azabenzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate (PyAOP) (0.68 gram, 1.30 mmol) and diisopropylethylamine (0.34 mL, 1.95 mmol) and the resulting solution is stirred for 1 hour at room temperature. Concentration In vacuo gives a crude oil (2.01 gram) which is purified by flash chromatography (ethyl acetate/petroleum ether=1/3 (v/v)) to give 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-N-(hexahydro(1 H)azepin-1-yl)thiazole-2-carboxamide (0.350 gram, 56% yield). Melting point: 185-186° C. (after recrystallisation from diisopropyl ether).

reactant | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid | 1.30 mmol, 0.50 gram | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H8Cl3NO2S
reactant | 1-aminohexahydro(1H)azepine | 1.30 mmol, 0.15 gram | NN1CCCCCC1 | C6H14N2
reactant | 7-aza-1-hydroxybenzotriazole | 1.30 mmol, 0.18 gram | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 7-azabenzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate | 1.30 mmol, 0.68 gram | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | diisopropylethylamine | 1.95 mmol, 0.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-N-(hexahydro(1 H)azepin-1-yl)thiazole-2-carboxamide | 0.350 gram, 56% yield | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)NN1CCCCCC1)C1=C(C=C(C=C1)Cl)Cl | C22H20Cl3N3OS
